* eeschema netlist version 1.1 (spice format) creation date: thu jun  4 14:46:46 2015

r3  5 6 4.7k
r4  7 0 1k
r1  1 3 10k
c1  8 1 0.01u
r2  0 8 1meg
c2  0 8 5p
c3  8 7 4p
c4  8 6 2p
c5  6 7 0.5p
c6  7 0 2u
c7  6 2 5u
c8  2 0 6p
r5  2 0 2.2k
v2 5 0  dc 0
v1 3 0  ac 0
j1  6 8 7 njf
.dc  0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
