* /home/fossee/downloads/esim-master/examples/frequencyresponse_jfet/frequencyresponse_jfet.cir

.include NJF.lib
c1  net-_c1-pad1_ net-_c1-pad2_ 0.01u
c2  gnd net-_c1-pad1_ 5p
c3  net-_c1-pad1_ net-_c3-pad2_ 4p
c4  net-_c1-pad1_ net-_c4-pad2_ 2p
c5  net-_c4-pad2_ net-_c3-pad2_ 0.5p
c6  net-_c3-pad2_ gnd 2u
c7  net-_c4-pad2_ out 5u
c8  out gnd 6p
v2 net-_r3-pad1_ gnd  dc 20
v1 in gnd  ac 0.1m
j1 net-_c4-pad2_ net-_c1-pad1_ net-_c3-pad2_ J2N3819
r3  net-_r3-pad1_ net-_c4-pad2_ 4.7k
r1  in net-_c1-pad2_ 10k
r2  gnd net-_c1-pad1_ 1meg
r4  gnd net-_c3-pad2_ 1k
r5  gnd out 2.2k
.ac lin 100 10Hz 10Meg

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
